US05098929
2-Benzyloxymethyl-2-hydroxymethyl-butan-1ol (9.7 g.) was added to a stirred suspension of pyridinium chlorochromate (9.7 g.) and anhydrous sodium acetate (2.0 g.) in dry dichloromethane (200 ml.) at 0°, under a current of nitrogen. The mixture was stirred at room temperature for six hours. The mixture was diluted with dry ether (200 ml.) and the organic solution was decanted off. The oily residue was treated with ether and the combined extracts were evaporated in vacuo. The residue was purified by chromatography on silica, eluting with 1:2 ether:hexane. 2-Benzyloxymethyl-2-ethyl-propandial was obtained as a pale brown oil (3.3 g.) and was used immediately.

reactant | 2-Benzyloxymethyl-2-hydroxymethyl-butan-1ol | 9.7 g | C(C1=CC=CC=C1)OCC(CO)(CC)CO | C13H20O3
reactant | pyridinium chlorochromate | 9.7 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | sodium acetate | 2.0 g | C(C)(=O)[O-].[Na+]
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | ether | 200 ml | CCOCC | C4H10O
product | 2-Benzyloxymethyl-2-ethyl-propandial | C(C1=CC=CC=C1)OCC(C=O)(C=O)CC | C13H16O3
